* c:\w\HV\blocking815.asc
L1 nb vcc 111µH Rser=1
L3 0 HV 999µH
Q1 nc nb 0 0 BD139
V1 vcc 0 PULSE(0 5 0.1s 0.01s)
L2 vcc nc 111µH
XU1 HV 0 neonbulb Vstrike=100 Vhold=50 Zon=2K Ihold=200u Tau=100u
.model NPN NPN
.model PNP PNP
.lib D:\LTspiceIV\lib\cmp\standard.bjt
.tran 0.2s
K1 L1 L2 L3 0.9
.lib neonbulb.sub
.backanno
.end
